US06998497B2
Chromium(III) Bis-triflimide
Chromium metal (1.0 g, 99.95% purity) pieces were suspended in water (20 mL) and hydrogen bis-triflimide (HNTf2) (5 g) was added. This mixture was heated under reflux for 144 hours. The resultant mixture was cooled, filtered and concentrated on a rotary evaporator to give a green solid. The solid were heated at 150° C. at 1 mmHg to remove the residual water and hydrogen bis-triflimide. The solid was thought to contain an oxo chromium bis-triflimide species CrO(NTf2) from the mass of HNTf2 produced in drying process. The unpurified chromium(III) bis-triflimide was found to display catalytic activity in Friedel-Crafts reactions, and was similar in activity to Zn(NTf2)2.

reactant | Chromium | 1.0 g | [Cr] | Cr
reactant | HNTf2 | 5 g | N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2HF6NO4S2
solvent | water | 20 mL | O | H2O
product | Chromium(III) Bis-triflimide | N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[Cr+3] | InChI=1S/2C2HF6NO4S2.Cr/c2*3-1(4,5)14(10,11)9-15(12,13)2(6,7)8;/h2*9H;/q;;+3
